US08791107B2
PREPARATION x38: 2-chloro-5-(4-(methylsulfonyl)benzyl)-6a,7,9,10-tetrahydro-[1,4]oxazino[3,4-h]pteridin-6(5H)-one
2-Chloro-6a,7,9,10-tetrahydro-[1,4]oxazino[3,4-h]pteridin-6(5H)-one (PREPARATION x1, 1.5 g, 6.23 mmol) was dissolved in DMF (25 mL) to give an orange solution. The mixture was cooled to 0° C. and lithium bis(trimethylsilyl)amide (1.04 g, 6.23 mmol), followed by 4-methylsulfonylbenzyl bromide (1.71 g, 6.86 mmol), were added. The reaction mixture was stirred at 0° C. for 1 hour and was subsequently diluted with ethyl acetate and washed with brine (100 mL) to give a suspension. An orange precipitate was collected on a fitted glass funnel and was washed with water (3×20 mL) and dried over night in a stream of nitrogen. The crude solid was triturated with hot ethyl acetate (2×) to give the title compound which was used without further purification (1.78 g, 69.8%). ESI-MS m/z [M+H]+ calc'd for C17H17ClN4O4S, 409.07. found 409.3.

reactant | 2-Chloro-6a,7,9,10-tetrahydro-[1,4]oxazino[3,4-h]pteridin-6(5H)-one | 6.23 mmol, 1.5 g | ClC1=NC=2N3C(C(NC2C=N1)=O)COCC3 | C9H9ClN4O2
reactant | lithium bis(trimethylsilyl)amide | 6.23 mmol, 1.04 g | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | 4-methylsulfonylbenzyl bromide | 6.86 mmol, 1.71 g | CS(=O)(=O)C1=CC=C(CBr)C=C1 | C8H9BrO2S
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-chloro-5-(4-(methylsulfonyl)benzyl)-6a,7,9,10-tetrahydro-[1,4]oxazino[3,4-h]pteridin-6(5H)-one | ClC1=NC=2N3C(C(N(C2C=N1)CC1=CC=C(C=C1)S(=O)(=O)C)=O)COCC3 | C17H17ClN4O4S
